US08030334B2
To a solution of 2-[5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pyridin-3-yl]-1-methyl-1H-indole-3-carbonitrile (200 mg, 0.51 mmol) in ethanol (15 mL) is added hydrazine hydrate (327 mg, 10.2 mmol). The mixture is stirred at room temperature overnight. The reaction mixture is poured into dichloromethane (100 mL) and extracted with 1M HCl in water. The combined aqueous phase is basified with 5M NaOH in water and extracted with dichloromethane. The combined organic phase is dried over Na2SO4 and concentrated in vacuo to give 2-(5-aminomethyl-pyridin-3-yl)-1-methyl-1H-indole-3-carbonitrile, which is used in the next step without further purification. MS (ESI) m/z 263.27 (M+H)+.

reactant | 2-[5-(1,3-dioxo-1,3-dihydro-isoindol-2-ylmethyl)-pyridin-3-yl]-1-methyl-1H-indole-3-carbonitrile | 0.51 mmol, 200 mg | O=C1N(C(C2=CC=CC=C12)=O)CC=1C=C(C=NC1)C=1N(C2=CC=CC=C2C1C#N)C | C24H16N4O2
reactant | hydrazine hydrate | 10.2 mmol, 327 mg | O.NN
reactant | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2-(5-aminomethyl-pyridin-3-yl)-1-methyl-1H-indole-3-carbonitrile | NCC=1C=C(C=NC1)C=1N(C2=CC=CC=C2C1C#N)C | C16H14N4
